US06441017B1
Step C: Methanesulfonic Acid 4-Bromo-3-bromomethylphenyl Ester
A mixture of methanesulfonic acid 4-bromo-3-methylphenyl ester, as described above in Step B, (14.3 g, 53.9 mmol), N-bromosuccinimide (14.4 g, 80.9 mmol), and 2,2′-azobisisobutyronitrile (1.34 g, 8.16 mmol) in CCl4 was heated at 80° C. for 18 hours. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography, eluting with a gradient of hexane—5% to 20% EtOAc, to yield the titled product.

reactant | methanesulfonic acid 4-bromo-3-methylphenyl ester | BrC1=C(C=C(C=C1)OS(=O)(=O)C)C | C8H9BrO3S
reactant | N-bromosuccinimide | 53.9 mmol, 14.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 8.16 mmol, 1.34 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methanesulfonic Acid 4-Bromo-3-bromomethylphenyl Ester | BrC1=C(C=C(C=C1)OS(=O)(=O)C)CBr | C8H8Br2O3S
